US09126931B2
8-[(4R,5R)-5-(Tert-butyldimethylsilanyloxymethyl)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy]-3-iodo-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one
Under nitrogen atmosphere, 3-bromo-8-[(4R,5R)-5-(tert-butyldimethylsilanyloxymethyl)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy]-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one (Compound T22-1, 300 mg, 0.47 mmol), sodium iodide (147 mg, 0.94 mmol) and copper iodide (9.40 mg, 0.047 mmol) were dissolved in dioxane (1.00 ml), added with (1R,2R)—N,N,N′,N′-tetramethyl-cyclohexane-1,2-diamine (15.4 μl, 0.094 mmol), and then stirred at 110° C. for 16 hr. The residues obtained from the reaction solution after concentration under reduced pressure were purified by silica gel column chromatography (methylene chloride/methanol) to obtain the title compound (220 mg, 70%).

reactant | 3-bromo-8-[(4R,5R)-5-(tert-butyldimethylsilanyloxymethyl)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy]-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 0.47 mmol, 300 mg | BrC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C=C4)OC[C@H]4OC(O[C@@H]4CO[Si](C)(C)C(C)(C)C)(C)C)=O | C31H40BrNO5Si
reactant | sodium iodide | 0.94 mmol, 147 mg | [I-].[Na+]
reactant | (1R,2R)—N,N,N′,N′-tetramethyl-cyclohexane-1,2-diamine | 0.094 mmol, 15.4 μl | CN([C@H]1[C@@H](CCCC1)N(C)C)C | C10H22N2
solvent | dioxane | 1.00 ml | O1CCOCC1 | C4H8O2
catalyst | copper iodide | 0.047 mmol, 9.40 mg | [Cu](I)I
product | 8-[(4R,5R)-5-(Tert-butyldimethylsilanyloxymethyl)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy]-3-iodo-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 220 mg, 70% | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@H](OC(O1)(C)C)COC=1C=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)I)(C)C)C1 | C31H40INO5Si
